US05120843
3-Oxo-1-cyclohexene butanal
Following the procedure of Corey, Tetrahedron Lett 2647 (1975), a mixture of 3-(4-hydroxybutyl)-cyclohex-2-en-1-one (539 mg) pyridinium dichromate (2.05 g) and methylene chloride (8.0 ml) is stirred for 25 hr at 20°-25°. The reaction is diluted with ether, filtered, dried over magnesium sulfate and concentrated to give the title compound, IR (neat) 2950, 1724, 1666, 1255, 1193, 888 cm-1.

reactant | 3-(4-hydroxybutyl)-cyclohex-2-en-1-one | 539 mg | OCCCCC1=CC(CCC1)=O | C10H16O2
reactant | methylene chloride | 8.0 ml | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | 3-Oxo-1-cyclohexene butanal | O=C1C=C(CCC1)CCCC=O | C10H14O2
